data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
4673,5328,[CH3:10][NH:11][C:12](=[O:13])[C:14]([C:15](=[O:16])[NH:17][CH3:18])=[N+:19]([CH3:20])[CH-:21][C:22]([CH3:23])=[O:24].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:14]([C:12]([NH:11][CH3:10])=[O:13])([C:15](=[O:16])[NH:17][CH3:18])[N:19]([CH3:20])[CH:21]1[C:22]([CH3:23])=[O:24],water,298.15,30.051491241046968,-20.11185271299772
2033,2256,[Br:1][C:2]1=[C:3]([Br:4])[CH:5]2[CH:6]=[CH:7][CH:8]1[O:9]2.[CH3:10][NH:11][C:12](=[O:13])[C-:14]([CH3:15])[N+:16]([CH3:17])=[C:18]([C:19]#[N:20])[C:21]([CH3:22])=[O:23]>>[Br:1][C:2]1=[C:3]([Br:4])[CH:5]2[CH:6]3[CH:7]([CH:8]1[O:9]2)[C:14]([C:12]([NH:11][CH3:10])=[O:13])([CH3:15])[N:16]([CH3:17])[C:18]3([C:19]#[N:20])[C:21]([CH3:22])=[O:23],water,298.15,27.149293900808555,-31.32270667516541
2728,3032,[CH3:14][O:15][C:16](=[O:17])[C:18]([CH3:19])=[N+:20]([CH3:21])[C-:22]([C:23]#[N:24])[C:25]([CH3:26])=[O:27].[N:1]#[C:2][C:3]1([Br:4])[C:5]#[C:6][C:7]([Br:8])([Br:9])[CH2:10][CH2:11][CH2:12][CH2:13]1>>[N:1]#[C:2][C:3]1([Br:4])[C:5]2=[C:6]([C:7]([Br:8])([Br:9])[CH2:10][CH2:11][CH2:12][CH2:13]1)[C:22]([C:23]#[N:24])([C:25]([CH3:26])=[O:27])[N:20]([CH3:21])[C:18]2([C:16]([O:15][CH3:14])=[O:17])[CH3:19],water,298.15,34.04227884083384,-28.12888735914856
3463,3943,[CH3:1]/[CH:2]=[CH:3]\[CH3:4].[N:5]#[N+:6][C-:7]([c:8]1[cH:9][cH:10][cH:11][cH:12][cH:13]1)[c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1>>[CH3:1][C@H:2]1[C@@H:3]([CH3:4])[C:7]([c:8]2[cH:9][cH:10][cH:11][cH:12][cH:13]2)([c:14]2[cH:15][cH:16][cH:17][cH:18][cH:19]2)[N:6]=[N:5]1,water,298.15,29.95106720618839,-10.149013013800367
2800,3111,[CH3:18][O:19][C:20](=[O:21])[C:22]([C:23]([CH3:24])=[O:25])=[N+:26]([CH3:27])[C-:28]([C:29]([CH3:30])=[O:31])[c:32]1[cH:33][cH:34][cH:35][cH:36][cH:37]1.[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6]([CH3:7])=[O:8])[C:9]#[C:10][C:11]([Cl:12])([Cl:13])[CH2:14][CH2:15][CH2:16][CH2:17]1>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6]([CH3:7])=[O:8])[C:9]2=[C:10]([C:11]([Cl:12])([Cl:13])[CH2:14][CH2:15][CH2:16][CH2:17]1)[C:22]([C:20]([O:19][CH3:18])=[O:21])([C:23]([CH3:24])=[O:25])[N:26]([CH3:27])[C:28]2([C:29]([CH3:30])=[O:31])[c:32]1[cH:33][cH:34][cH:35][cH:36][cH:37]1,water,298.15,35.427052694486314,-20.09823624812561
2985,3337,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][N-:8][O+:9]=[C:10]([CH3:11])[C:12]#[N:13]>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[N:8]([CH3:7])[O:9][C:10]1([CH3:11])[C:12]#[N:13],water,298.15,13.33874956442891,-35.18087465785656
2795,3105,[CH3:14][C:15](=[O:16])[C:17]([CH3:18])=[NH+:19][C-:20]([C:21]([CH3:22])=[O:23])[c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1.[N:1]#[C:2][C:3]1([Br:4])[C:5]#[C:6][C:7]([Br:8])([Br:9])[CH2:10][CH2:11][CH2:12][CH2:13]1>>[N:1]#[C:2][C:3]1([Br:4])[C:5]2=[C:6]([C:7]([Br:8])([Br:9])[CH2:10][CH2:11][CH2:12][CH2:13]1)[C:20]([C:21]([CH3:22])=[O:23])([c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1)[NH:19][C:17]2([C:15]([CH3:14])=[O:16])[CH3:18],water,298.15,23.1829221105652,-22.22166670669889
1649,1821,[CH3:13][O:14][C:15](=[O:16])[C:17](=[NH+:18][N-:19][C:20]#[N:21])[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1.[CH3:1][C:2](=[O:3])[C:4]([Cl:5])=[C:6]([C:7]([CH3:8])=[O:9])[C:10]([CH3:11])=[O:12]>>[CH3:1][C:2](=[O:3])[C:4]1([Cl:5])[C:6]([C:7]([CH3:8])=[O:9])([C:10]([CH3:11])=[O:12])[C:17]([C:15]([O:14][CH3:13])=[O:16])([c:22]2[cH:23][cH:24][cH:25][cH:26][cH:27]2)[NH:18][N:19]1[C:20]#[N:21],water,298.15,27.62466895169563,5.265235799258853
4308,4927,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][NH:16][C:17](=[O:18])[N-:19][N+:20]#[C:21][C:22]#[N:23]>>[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C@@:11]2([CH3:12])[C@:13]1([CH3:14])[N:19]([C:17]([NH:16][CH3:15])=[O:18])[N:20]=[C:21]2[C:22]#[N:23],water,298.15,13.261089257475298,-35.92145462717617
3048,3413,[CH3:1]/[CH:2]=[CH:3]\[CH3:4].[CH3:5][NH:6][C:7](=[O:8])[C:9]#[N+:10][N-:11][C:12]([CH3:13])=[O:14]>>[CH3:1][C@H:2]1[C@@H:3]([CH3:4])[N:11]([C:12]([CH3:13])=[O:14])[N:10]=[C:9]1[C:7]([NH:6][CH3:5])=[O:8],water,298.15,16.7224582854031,-48.38125069045193
2190,2428,[CH3:15][NH:16][C:17](=[O:18])[C-:19]([NH+:20]=[C:21]([C:22]#[N:23])[C:24](=[O:25])[O:26][CH3:27])[C:28](=[O:29])[NH:30][CH3:31].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([CH3:8])=[O:9])[CH:10]2[CH2:11][CH2:12][CH:13]1[CH2:14]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([C:7]([CH3:8])=[O:9])([CH:10]3[CH2:11][CH2:12][CH:13]1[CH2:14]3)[C:21]([C:22]#[N:23])([C:24](=[O:25])[O:26][CH3:27])[NH:20][C:19]2([C:17]([NH:16][CH3:15])=[O:18])[C:28](=[O:29])[NH:30][CH3:31],water,298.15,27.30897124137975,4.548517112028891
3632,4151,[CH3:10][NH:11][C:12](=[O:13])[C-:14]([N+:15]#[N:16])[C:17]([CH3:18])=[O:19].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[N:16]=[N:15][C:14]1([C:12]([NH:11][CH3:10])=[O:13])[C:17]([CH3:18])=[O:19],water,298.15,34.01656630766211,8.218356801039286
